US07262206B2
(17) 1,5-diacetyl-3-[(2-methoxy-phenyl)-hydroxy-methylidene]-2-indolinone
Prepared from 1,5-diacetyl-2-indolinone and 2-methoxybenzoic acid

reactant | 1,5-diacetyl-2-indolinone | C(C)(=O)N1C(CC2=CC(=CC=C12)C(C)=O)=O | C12H11NO3
reactant | 2-methoxybenzoic acid | COC1=C(C(=O)O)C=CC=C1 | C8H8O3
product | 1,5-diacetyl-3-[(2-methoxy-phenyl)-hydroxy-methylidene]-2-indolinone | C(C)(=O)N1C(C(C2=CC(=CC=C12)C(C)=O)=C(O)C1=C(C=CC=C1)OC)=O | C20H17NO5
